US08138340B2
3-(Oxazol-4-yl)acrylic acid ethyl ester
Triethylphosphonoacetate (29.4 mL, 147 mmol) was dissolved in dry Et2O (200 mL) under nitrogen. The sol. was cooled to −78° C., and BuLi (1.6 M in hexane, 85 mL, 136 mmol) was added slowly. The mixture was stirred for 2 h at −78° C., and a sol. of the oxazole-4-carbaldehyde (11.9 g, 122 mmol) in dry Et2O was added slowly. The reaction mixture was stirred for 4 h. The reaction mixture was combined with Et2O and water, and the org. phase was washed with aq. sat. NaHCO3. The org. extracts were dried over MgSO4, filtered and the solvents were carefully removed under reduced pressure (volatile product). Purification of the residue by FC (heptane/EtOAc; 1.5:1→1:1→1:2) yielded the title compound (15.1 g, 74%). LC-MS: tR=0.77, ES+: 209.10.

reactant | BuLi | 136 mmol, 1.6 M, 85 mL | [Li]CCCC
reactant | oxazole-4-carbaldehyde | 122 mmol, 11.9 g | O1C=NC(=C1)C=O | C4H3NO2
reactant | water | O | H2O
reactant | Et2O | 200 mL | CCOCC | C4H10O
product | 3-(Oxazol-4-yl)acrylic acid ethyl ester | 15.1 g, 74% | C(C)OC(C=CC=1N=COC1)=O | C8H9NO3
